US06482818B2
To a solution of 1-ethylpiperazine-2,3-dione (2.13 g, 15 mmol) in 30% aqueous (methanol free) formaldehyde (15 mmol) potassium hydroxide (150 mg, 2.7 mmol) was added and the mixture stirred at 50° C. for 7 days. It was neutralized with 5 N aqueous hydrochloric acid (50 μl) to pH=7. The mixture was evaporated at 15 mm and then dried in high vacuo (0.0013 mbar) (0.001 mm) to give 1-ethyl-4- (hydroxymethyl)-piperazine-2,3-dione as a colourless solid (100%). NMR-spectrum in CDCl3: 1.15 (broad signal, 1H), 1.15 (t, 3H, J=7 Hz), 3.47 (q, 2H, J=7 Hz), 3.54 (m, 2H), 3.68 (m, 2H), 4.88 (s, 2H) ppm.

reactant | 1-ethylpiperazine-2,3-dione | 15 mmol, 2.13 g | C(C)N1C(C(NCC1)=O)=O | C6H10N2O2
reactant | formaldehyde | 15 mmol, 150 mg | C=O | CH2O
solvent | hydrochloric acid | 5 N, 50 μl | Cl | ClH
product | 1-ethyl-4- (hydroxymethyl)-piperazine-2,3-dione | 100% | C(C)N1C(C(N(CC1)CO)=O)=O | C7H12N2O3
